US04959366
(D) 1-(4-Aminophenylthio)-2-[N-(4-aminophenethyl)-N-methylamino]ethane
The title compound was prepared by the hydrogenation of 2-[N-methyl-N-(4-nitrophenethyl)amino]-1-(4-nitrophenylthio)ethane over Raney nickel according to the procedure of Example 7(B).

reactant | 2-[N-methyl-N-(4-nitrophenethyl)amino]-1-(4-nitrophenylthio)ethane | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCSC1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O4S
catalyst | Raney nickel | [Ni] | Ni
product | 1-(4-Aminophenylthio)-2-[N-(4-aminophenethyl)-N-methylamino]ethane | NC1=CC=C(C=C1)SCCN(C)CCC1=CC=C(C=C1)N | C17H23N3S
